US08497375B2
The known method for the manufacture of ferroquine, partially represented in scheme 2 below, consists in synthesizing firstly 1-[(dimethylamino)methyl]-2-formyl-ferrocene from (dimethylamino)methyl-ferrocene with a yield of about 85%, then in preparing the corresponding intermediate oxime, and finally in carrying out reduction of this oxime which leads to obtaining 1-(aminomethyl)-2-[(dimethylamino)methyl]-ferrocene which can be isolated in the form of dihydrochloride. The yield of synthesis of the dihydrochloride 1-(aminomethyl)-2-[(dimethylamino)methyl]-ferrocene relative to 1-[(dimethylamino)methyl]-2-formyl-ferrocene is 55-65%.

reactant | ferroquine | CN(C)CC1=C(C=[C-]C1)CNC2=C3C=CC(=CC3=NC=C2)Cl.C1C=CC=[C-]1.[Fe+2]
reactant | 1-[(dimethylamino)methyl]-2-formyl-ferrocene | CN(C)C[C-]1C(=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
reactant | (dimethylamino)methyl-ferrocene | CN(C)C[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | 1-(aminomethyl)-2-[(dimethylamino)methyl]-ferrocene | yield of about 85% | NC[C-]1C(=CC=C1)CN(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H15N2.C5H5.Fe/c1-11(2)7-9-5-3-4-8(9)6-10;1-2-4-5-3-1;/h3-5H,6-7,10H2,1-2H3;1-5H;/q2*-1;+2
